US07737141B2
Synthesis of [(1R,2R)-1-amino-1-(3,4,5-trifluorophenyl)propan-2-ol hydrochloride
A 4 N hydrochloric acid ethyl acetate solution (20 mL) was added to an ethyl acetate solution (50 mL) of [(1R,2R)-2-hydroxy-1-(3,4,5-trifluorophenyl)propyl]carbamic acid tert-butyl ester (4.49 g). This reaction solution was stirred at room temperature for 5 hr. The reaction solution was concentrated under reduced pressure to give 3.5 g of the title compound. The physical property values of this compound were as follows:

reactant | hydrochloric acid ethyl acetate | 4 N, 20 mL | C(C)OC(C)=O.Cl
reactant | [(1R,2R)-2-hydroxy-1-(3,4,5-trifluorophenyl)propyl]carbamic acid tert-butyl ester | 4.49 g | C(C)(C)(C)OC(N[C@@H]([C@@H](C)O)C1=CC(=C(C(=C1)F)F)F)=O | C14H18F3NO3
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (1R,2R)-1-amino-1-(3,4,5-trifluorophenyl)propan-2-ol hydrochloride | 3.5 g | Cl.N[C@@H]([C@@H](C)O)C1=CC(=C(C(=C1)F)F)F | InChI=1S/C9H10F3NO.ClH/c1-4(14)9(13)5-2-6(10)8(12)7(11)3-5;/h2-4,9,14H,13H2,1H3;1H/t4-,9+;/m1./s1
